US07754758B2
3-(4-fluoro-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
Sodium hydride (554 mg, 13.84 mmol) is added to a solution of 4-fluorophenol (1.60 g, 14.20 mmol) in DMF (20 ml) and the mixture is stirred at room temperature for 2 minutes. 3-Methanesulphonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester is added and the mixture heated at 60° C. for 18 hours. Water (50 ml) is then added and the resulting product is extracted using diethyl ether (3×30 ml). The organic extracts are dried (using MgSO4), filtered and evaporated to give a white solid, which is purified using column chromatography over silica gel (ethyl acetate/isohexane 1:9 v/v) to give the title compound.

reactant | Sodium hydride | 13.84 mmol, 554 mg | [H-].[Na+]
reactant | 4-fluorophenol | 14.20 mmol, 1.60 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | 3-Methanesulphonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)OS(=O)(=O)C | C10H19NO5S
reactant | Water | 50 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-(4-fluoro-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(C=C1)F | C15H20FNO3
